US06046232
Synthesis of α-(2-Ethoxyphenyl)-N-isopropylnitrone
The title compound was prepared according to the procedure described in Example 11 using 2-ethoxybenzaldehyde and N-isopropylhydroxylamine. The title compound was isolated in 48.8% yield as a solid, m.p. 59.4° C. (Rf =0.48 on a silica gel plate using ethyl acetate as the eluant).

reactant | 2-ethoxybenzaldehyde | C(C)OC1=C(C=O)C=CC=C1 | C9H10O2
reactant | N-isopropylhydroxylamine | C(C)(C)NO | C3H9NO
product | α-(2-Ethoxyphenyl)-N-isopropylnitrone | C(C)OC1=C(C=CC=C1)C=[N+]([O-])C(C)C | C12H17NO2
